US06605617B2
4-(2-Morpholin-4-ylethoxy)benzene-1,2-diamine
To a solution 4-(2-morpholin-4-ylethoxy)-2-nitrophenylamine (1.0 eq) in EtOH was added Pd/C (0.1 eq). The reaction vessel was repeatedly purged with nitrogen, then stirred under a hydrogen atmosphere (1 atm) for 18 hours. The product was filter ed through a Celite plug, and the plug washed with EtOH. The diamine was used without purification. LC/MS m/z 238.3 (MH+), Rf 0.295 minutes.

reactant | 4-(2-morpholin-4-ylethoxy)-2-nitrophenylamine | 1.0 eq | N1(CCOCC1)CCOC1=CC(=C(C=C1)N)[N+](=O)[O-] | C12H17N3O4
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 0.1 eq | [Pd] | Pd
product | 4-(2-Morpholin-4-ylethoxy)benzene-1,2-diamine | N1(CCOCC1)CCOC=1C=C(C(=CC1)N)N | C12H19N3O2
